US06743919B2
[1-(4-Chlorobenzyl)-1H-indol-3-yl]-[4-(pyridine-3-carbonyl)-1H-imidazol-2-yl]methanone:
To a solution of [1-(4-chlorobenzyl)-1H-indol-3-yl-[4-(hydroxypyridin-3-yl-methyl)-1H-imidazol-2-yl]methanone (20 mg, 4.51×10−5 mol) in CH2Cl2 (5 mL) was added MnO2 (50 mg). The reaction was stirred for 1 hour at room temperature and filtered through celite to produce the desired product as a white solid (yield 15 mg, 75%). Rf 0.5 (ethyl acetate:methanol, 9:1); 1H NMR δ5.61 (s, 2H), 7.36 (m, 6H), 7.61 (m, 1H), 7.68 (m, 1H), 8.28 (s, 1H), 8.39 (m, 1H), 8.60 (d, 1H), 8.86 (d, 1H), 9.16 (s, 1H), 9.40 (s, 1H); ESMS Calcd (C25H17ClN4O2): 440.10, found 441.2 (M+H)+.

reactant | 1-(4-chlorobenzyl)-1H-indol-3-yl-[4-(hydroxypyridin-3-yl-methyl)-1H-imidazol-2-yl]methanone | 4.51×10−5 mol, 20 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C=2NC=C(N2)C(C=2C=NC=CC2)O)C=C1 | C25H19ClN4O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 50 mg | O=[Mn]=O
product | [1-(4-Chlorobenzyl)-1H-indol-3-yl]-[4-(pyridine-3-carbonyl)-1H-imidazol-2-yl]methanone | yield 15 mg, 75% | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(=O)C=2NC=C(N2)C(=O)C=2C=NC=CC2)C=C1 | C25H17ClN4O2
